Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Ruptured globe 
 
Major Surgical or Invasive Procedure:
___ Ruptured globe repair
 
History of Present Illness:
Ms. ___ is a ___ yo woman with PMH of mild dementia and 
macular
degeneration presenting with ruptured globe s/p repair in the
setting of mechanical fall. 

The patient states that she was going to go out shopping this
morning and while she was getting dressed she tripped over her
rug this morning and fall face first onto hardwood floor. This
was witnessed by her caregiver, and patient did not have LOC. 
She
was sent to ___-N where CT maxillofacial/C-spine were negative
but CT head showed left globe deformity and bilateral nasal bone
fractures. Beside ocular U/S showed irregular left globe c/f
rupture. She was transferred to the ED at ___ for 
ophthalmology
evaluation. In the ED, she denied any pain and had full
recollection of the event. She is legally blind in both eyes. 

In ED, initial vitals 97 70 138/80 20 99% RA 
ED Exam notable for ecchymosis and swelling in left ___
area with irregular left pupil and deformed cornea. Visual 
acuity
could not be assessed as the patient is legally blind. She was
seen by ophtho with exam notable for limited bilateral vision,
left eye with open keratoplasty wound from 3 O clock to 6 O
clock. No prolapse of intraocular tissue.  
Vitals on transfer 97.4 74 104/59 17 97% RA 
 
She was taken urgently to the OR for globe repair under general
anesthesia, which she tolerated well. 

On arrival to floor, she notes some pain in the area of her 
right
ribs and right hip since her fall. She denies facial, nasal, or
eye pain. She reports that she has been feeling well until the
fall, denying cough, SOB, n/v/d, dysuria or urinary sx, f/c, or
other issues. 

ROS: Positive as per HPI, all systems reviewed and otherwise
negative

 
Past Medical History:
Past Medical History: 
-Macular degeneration with bilateral legal blindness
-Mild dementia
-Vertigo 
-Chronic constipation 
-Hard of hearing

Past surgical history:
-Hysterectomy/oophorectomy in ___
-Bilateral keratoplasties

 
Social History:
___
Family History:
-Mother with liver cancer 
 
Physical Exam:
Admission Physical Exam:
VS:  97.6 121/69 62 30 94%RA
General: Well appearing elderly woman sitting up in bed in NAD
Eyes: Right eye PERLL, EOMI, sclera anicteric; left eye covered
by patch
Head: Mild ecchymosis over bridge of nose, around left eye patch
ENT: MMM, oropharynx clear without exudate or lesions. Hard of
hearing. 
Respiratory: Largely clear to auscultation bilaterally except 
for
mild crackles at left base which clear with deep breath. Mild
tenderness over right inferior ribs. 
Cardiovascular: RRR, normal S1 and S2, no murmurs, rubs or
gallops
Gastrointestinal: Soft, nontender, nondistended, +BS, no masses
or HSM
Extremities: Warm and well perfused, no peripheral edema. Mild
tenderness over right greater trochanter, with mild tenderness 
on
passive internal rotation but otherwise normal ROM. No
ecchymosis. 
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert and oriented x3, motor and sensory exam
grossly intact 

Discharge Exam:
=================
97.9 PO 111 / 70 80 18 95 RA 
General: well appearing, comfortable
Eyes: Left eye covered in dressing, right eye with reactive 
pupil
ENT: Very HOH, nares patent, bruising around bridge of nose, 
MMM, OP clear
Neck: Supple, no JVD
CV: RRR, normal S1/S2, no m/r/g
Lungs: CTAB, good air movement, somewhat limited by pain with 
deep inspiration
GI: soft, nt, nd, normoactive BS
Extremities: right hip with mild ttp over greater trochanter
Skin: warm, no rashes or jaundice
Neuro: Alert, oriented to place and year, moving all 
extremities, steady on feet with ___
 
Pertinent Results:
Admission labs:
___ 04:05PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-SM 
___ 04:05PM URINE  RBC-1 WBC-12* BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 04:05PM URINE  AMORPH-OCC
___ 01:25PM   GLUCOSE-96 UREA N-23* CREAT-0.8 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-105 TOTAL CO2-26 ANION GAP-13
___ 01:25PM   estGFR-Using this
___ 01:25PM   CALCIUM-9.6 PHOSPHATE-3.7 MAGNESIUM-2.2
___ 01:25PM   WBC-9.2 RBC-4.12 HGB-12.5 HCT-37.9 MCV-92 
MCH-30.3 MCHC-33.0 RDW-14.6 RDWSD-49.7*
___ 01:25PM   NEUTS-67.8 ___ MONOS-9.3 EOS-2.2 
BASOS-0.9 IM ___ AbsNeut-6.23* AbsLymp-1.78 AbsMono-0.85* 
AbsEos-0.20 AbsBaso-0.08
___ 01:25PM   PLT COUNT-174
___ 01:25PM   ___ PTT-29.4 ___

IMAGING:
___ Imaging:
CT head: no intracranial hemorrhage.
         2. Irregular left lobe concerning for rupture.
         3. Bilateral nasal bone fractures, displaced on the
            right nondisplaced on the left.
         4. left frontal scalp hematoma.
       
CT maxillofacial/ CT C-spine: No acute fracture
       

CXR ___
IMPRESSION:  
  
Chest x-ray appearance is similar to ___. 
  
COPD, cardiomegaly, large hiatal hernia again noted. 
  
Assessment of the left base is limited due to superimposed
cardiac and hiatal hernia shadows.  Otherwise, no CHF, focal
infiltrate or effusion. 
  
Relative paucity of bowel gas in the visualized portion of the
upper abdomen, of uncertain significance. 

XRay right ribs ___: pending at discharge, prelim without 
displaced fracture

Xray of right hip ___: pending at d/c, prelim without fracture

ECG: Sinus rhythm rate 70-78, left anterior fascicular block,
intermittent PVCs, slow R wave progression, possible old septal
infarct

Micro:
___ Ucx pending

Discharge Labs:
================
___ 12:40PM BLOOD WBC-9.6 RBC-3.56* Hgb-10.9* Hct-33.1* 
MCV-93 MCH-30.6 MCHC-32.9 RDW-14.6 RDWSD-50.6* Plt ___
___ 08:05AM BLOOD Glucose-105* UreaN-20 Creat-0.7 Na-141 
K-4.2 Cl-106 HCO3-26 AnGap-___ yo w/ PMH of dementia, macular degeneration, and legal 
blindness admitted after mechanical trip and fall leading to 
ruptured globe and dehisced corneal transplant wound now s/p 
repair by ophthalmology. 

#Ruptured globe/keratoplasty wound dehiscence: 
Patient with hx of bilateral corneal transplants with wound 
dehiscence after a
mechanical fall. She underwent repair in OR by ophtho on ___ 
which she tolerated well and was admitted for post-op pain 
control and re-evaluation. Pain controlled overnight with 
standing tylenol, no IV narcotics needed. She was evaluated by 
ophtho in the morning who reported vision at baseline. Bandage 
removed with plan to leave shield in place whenever not using 
glasses. Started on moxifloxacin eye drops and prednisolone eye 
drops prior to discharge to continue through follow-up with 
ophtho. Will need to call her outpatient ophtho or ___ 
___ on ___ to schedule follow-up for ___. Sent home on 
home eye drops to her right eye, above drops to left QID. 

#Nasal fractures: Following fall, found to have right and left 
nasal bone fractures with mild displacement on the right. She 
denied any pain in nose, difficulty breathing and labs were 
stable. I discussed with plastic surgery on call who reported no 
indication for inpatient management. Will need to call for 
follow-up with Dr. ___ in plastics clinic in one week. 

#Mechanical Fall:
#Chest and hip pain:
Noted to have mechanical fall in her room with tripping over rug 
without LOC. She typically walks with cane or walker and 
reported she would use walker exclusively at home. No concern 
for syncope or infection driving fall. She had an xray of the 
right ribs and right hip which did not show hip fracture or 
displaced rib fractures. She will go home on PO Tylenol for 
pain. ___ evaluated patient and felt that she was safe for home 
with home ___. She will have a walker on both floors at home. 

#Asymptomatic bacteruria: UA with 12 WBC and few bacteria, neg 
nitrite. No leukocytosis or other systemic sx to suggest UTI so 
antibiotics were deferred. 

#Dementia: Patient oriented, coherent, likely more impacted 
bypoor hearing limiting ability to communicate. 

Transitional Issues:
====================
Transitional Issues:
[]Please ensure patient follows up with ophthalmology and 
plastic surgery within one week of discharge
[]Please follow-up urine culture from ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Meclizine 25 mg PO Q6H:PRN vertigo 
2. Lotemax (loteprednol etabonate) 0.5 % ophthalmic DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE QID 
RX *prednisolone acetate 1 % 1 drop ophtham four times a day 
Refills:*0 
3.  Vigamox (moxifloxacin) 0.5 % ophthalmic QID 
RX *moxifloxacin [Vigamox] 0.5 % 1 drop Ophthalmic four times a 
day Refills:*0 
4.  Lotemax (loteprednol etabonate) 0.5 % ophthalmic DAILY 
Please only take in right eye while taking the new eye drops.   
5.  Meclizine 25 mg PO Q6H:PRN vertigo  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left anterior globe rupture due to fall
Left and right nasal bone fracture
Fall

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital after a fall. You were found 
to have a rupture of the globe of your eye and were taken for 
repair of the eye on ___. You were evaluated by the eye doctors 
this ___ and your vision is stable. You will need to take 
two new eye drops 4x per day until you follow-up with your 
ophthalmologist. Please call your outpatient ophthalmologist on 
___ to schedule follow-up with him for ___. If you 
are unable to follow-up with him, please call the Eye Clinic at 
___ at ___ to arrange follow-up with Dr. ___ 
___. 

To protect your eye, please wear the eye shield at all times at 
night for the next week and wear your glasses for protection 
during the day. 

During your fall, you sustained a fracture of your nose as well. 
Please call the plastic surgery department to arrange for 
follow-up in one week with Dr. ___. His number is below. 

Please continue to take Tylenol as needed for pain.

You were seen by physical therapy who recommended that you go 
home with home physical therapy. Please make sure you have a 
walker available at all times. 

Please call your doctor or come to the emergency room if you 
have light headedness, dizziness, worsening vision, bleeding 
from your nose, difficulty breathing or any other symptoms that 
concern you.

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___